US04062858
4-Ethoxy-1-ethyl-5,6-dihydrobenzo[5,6]cyclohepta[1,2-b]-pyrazolo[4,3-e]pyridin-11(1H)-one
6.2 g. of 4-chloro-1-ethyl-5,6-dihydrobenzo[5,6]-cyclohepta[1,2-b]pyrazolo[4,3-e]pyridin-11(1H)-one (0.02 mol.) are added to a solution of 0.5 g. of sodium (0.022 mol.) in 150 ml. of absolute ethanol. The mixture is heated at 120° (bath temperature) in an autoclave for four hours. After cooling, the crystallized 4-ethoxy-1-ethyl-5,6-dihydrobenzo[5,6]cyclohepta[1,2-b]pyrazolo[4,3-e]-pyridin-11(1H)-one is filtered off and washed with water; yield: 3.5 g. An additional crop of 2.1 g. is obtained by work up of the mother liquor, total yield: 5.6 g. (87.5%). m.p. 150°-152° (recrystallized from ethanol).

reactant | 4-chloro-1-ethyl-5,6-dihydrobenzo[5,6]-cyclohepta[1,2-b]pyrazolo[4,3-e]pyridin-11(1H)-one | 0.02 mol | ClC1=C2C(=NC3=C1C=NN3CC)C(C3=C(CC2)C=CC=C3)=O | C17H14ClN3O
reactant | sodium | 0.022 mol | [Na] | Na
reactant | ethanol | C(C)O | C2H6O
product | 4-Ethoxy-1-ethyl-5,6-dihydrobenzo[5,6]cyclohepta[1,2-b]-pyrazolo[4,3-e]pyridin-11(1H)-one | C(C)OC1=C2C(=NC3=C1C=NN3CC)C(C3=C(CC2)C=CC=C3)=O | C19H19N3O2
